### ISSUE TITLE
BZMathlib review: post-#5064/#5066 audit of zpoly_dvd_trans cascade closure (26 rcases-form + 3 calc-form sites; helper hoist)

### ISSUE THREAD

**Issue by kim-em** [kim-em/hex-dev#5069]
## Current state

The audit of `zpoly_dvd_trans` rewires landed by #5036 + #5045
(issue #5048, comment
[#5048#issuecomment-4480680980](https://github.com/kim-em/hex/issues/5048#issuecomment-4480680980)
plus the post-#5058 rebase addendum) found two clusters of inline
divisor-transitivity sites in
`HexBerlekampZassenhausMathlib/Basic.lean` that the #5036/#5045
rewire wave did not yet route through the helper:

- **26 inline `rcases`/`refine`/`rw` sites** in `Basic.lean`
  (the rcases-form cluster), targeted by issue #5064 (claimed at
  audit-issue-write time, expected to land as a PR closing #5064
  before this audit fires).
- **3 calc-form transitivity sites** in the
  `henselSubsetCorrespondenceRest` family at the pre-hoist
  `Basic.lean:2090-2284` neighbourhood. Routing these onto the
  helper required hoisting `zpoly_dvd_trans` from its prior
  location (post-#5058: `Basic.lean:6759`) to above the
  `henselSubsetCorrespondenceRest_transport_of_disjoint`
  declaration. PR #5066 (closes #5065, merged as `dc2ba756`)
  performed the hoist to `Basic.lean:2076` and rewired the 3
  calc-form sites at the post-hoist neighbourhoods
  `Basic.lean:2103 / 2113 / 2275`.

After both #5064 and #5066 have landed,
`HexBerlekampZassenhausMathlib/Basic.lean` should contain:

- **One** `private theorem zpoly_dvd_trans` definition at
  `Basic.lean:2076` (modulo line-shift after #5064 lands).
- **38** call-site invocations (3 from #5036 + 6 from #5045 + 3
  from #5066 + 26 from #5064 = 38).

This issue audits the post-#5064 / post-#5066 state of the
`zpoly_dvd_trans` cluster against the same three invariants
applied to the Monic-route cluster in #5031 / #5039, to the
`normalizeForFactor` primitivity micro-cluster in #5041, to the
post-#5045 baseline in #5048, and to the `_size_pos` cluster pair
in #5053 / #5057:

1. **Call-site coverage.** Every site in `Basic.lean` and
   `IntReductionMod.lean` that derives `a ∣ c` from `a ∣ b` and
   `b ∣ c` (executable `Hex.ZPoly`-level divisibility, *not*
   Mathlib `Polynomial`-level) routes through `zpoly_dvd_trans`
   rather than inlining the `obtain`/`refine`/`mul_assoc_poly`
   chain or the calc-form `_ := …trans…` chain. Both shapes
   flagged in the #5048 audit are in scope:
   - `rcases`/`refine`/`rw` form (26 sites #5064 targets);
   - calc-form `(_ : a ∣ c) := …` chains in the
     `henselSubsetCorrespondenceRest` family (3 sites #5066
     targets).
2. **Framing, docstring, and hoist correctness.** The hoist
   preserved the post-#5048 `zpoly_dvd_trans` docstring verbatim
   (contract-first sentence + executable-vs-Mathlib semantic
   note about the bespoke `Dvd` instance), kept `private`
   visibility, and parked the helper at the *minimal* position
   needed to expose it to the calc-form callers at the
   `henselSubsetCorrespondenceRest` family — i.e., the
   immediately-preceding declaration is one whose body does
   not need to mention `zpoly_dvd_trans` and the
   immediately-following declaration is the first calc-form
   caller's enclosing theorem (or a declaration immediately
   above it).
3. **Cross-file consistency.** `zpoly_dvd_trans` is defined
   exactly once across `Basic.lean`, `IntReductionMod.lean`,
   and `Recovery.lean` (no peer/duplicate/shadow).

The audit is read-only: a single comment on this issue
containing the three invariant verdicts with verbatim grep
commands and expected-vs-observed counts. It mirrors the
structure of the #5048 / #5053 / #5057 audit comments.

## Deliverables

Post a single audit comment on this issue with three sections.

1. **Invariant 1 (call-site coverage).** Run at least these
   greps from the repository root and report each output
   verbatim:

   ```
   grep -nE "obtain .*hu.*:= .*_dvd_" HexBerlekampZassenhausMathlib/*.lean
   grep -nE "refine .*⟨.*\* .*, \?_⟩" HexBerlekampZassenhausMathlib/*.lean
   grep -nE "Hex\.DensePoly\.mul_assoc_poly \(S := Int\)" \
        HexBerlekampZassenhausMathlib/*.lean
   grep -nE "rw \[.*\]; rw \[.*\]; exact .*mul_assoc_poly" \
        HexBerlekampZassenhausMathlib/*.lean
   git grep -n "zpoly_dvd_trans" HexBerlekampZassenhausMathlib/Basic.lean
   git grep -nE "_ \∣ _ := .*\.trans " HexBerlekampZassenhausMathlib/Basic.lean
   ```

   For every `mul_assoc_poly` / `_dvd_*` / calc-form match,
   classify as one of:
   - **routed** — already `zpoly_dvd_trans` (post-#5036 /
     post-#5045 / post-#5066 / post-#5064 rewire);
   - **helper-internal** — the single `exact mul_assoc_poly`
     inside the body of `zpoly_dvd_trans` itself at the
     post-hoist `Basic.lean:2076` neighbourhood;
   - **non-transitivity** — `mul_assoc_poly` or calc-form
     `.trans` used in a context that is *not* a divisor-
     transitivity derivation (e.g., as part of a different
     algebraic rewrite, or `Eq.trans` on a non-divisibility
     statement). Show enclosing-theorem name and a one-line
     description of the surrounding intent so the reader can
     confirm the classification;
   - **missed transitivity site** — inline `a ∣ b ∧ b ∣ c →
     a ∣ c` proof (either shape) that should have been rewired
     but was not. For each such site, list line number,
     enclosing theorem, exact inline shape, and the projected
     one-line `zpoly_dvd_trans …` rewire. Use the same draft-
     issue-body format as #5048's deviation report so the next
     planner cycle can lift it verbatim.

   Report the post-#5064 + post-#5066 expected counts:
   - 1 definition + 38 rewired call sites = **39 occurrences**
     of `zpoly_dvd_trans` in `Basic.lean`.
   - 0 occurrences in `IntReductionMod.lean` and `Recovery.lean`.
   - 0 remaining inline divisor-transitivity sites of either
     shape (rcases-form or calc-form).

2. **Invariant 2 (framing, docstring, and hoist correctness).**
   Open `HexBerlekampZassenhausMathlib/Basic.lean` at the
   `zpoly_dvd_trans` declaration site (post-hoist
   `Basic.lean:2076` neighbourhood) and verify:
   - The docstring matches the post-#5048 audited form
     verbatim: contract-first sentence stating the executable
     `Hex.ZPoly`-level divisor-transitivity claim, with the
     bespoke-`Dvd`-instance semantic note preserved.
   - No `(#NNNN)` PR-number references, no session metadata,
     no "hoisted from `Basic.lean:6759` …" / "extracted from …"
     provenance hints in the docstring or surrounding comments.
   - The declaration is `private theorem` (not `theorem`).
   - The hoist target is the minimal position needed to expose
     the helper to the three calc-form callers at the post-hoist
     `Basic.lean:2103 / 2113 / 2275` neighbourhoods. The audit
     comment should name the immediately-preceding and
     immediately-following declarations to document the
     cluster's new neighbours, and confirm that the
     immediately-preceding declaration's body does not need to
     mention `zpoly_dvd_trans` (i.e., the hoist isn't gratuitous).

3. **Invariant 3 (cross-file consistency).** Run:

   ```
   git grep -c "zpoly_dvd_trans" \
       HexBerlekampZassenhausMathlib/Basic.lean \
       HexBerlekampZassenhausMathlib/IntReductionMod.lean \
       HexBerlekampZassenhausMathlib/Recovery.lean
   ```

   Expected: 39 in `Basic.lean` (1 def + 38 uses), 0 in
   `IntReductionMod.lean`, 0 in `Recovery.lean`. If
   `IntReductionMod.lean` or `Recovery.lean` shows a count
   > 0, the helper has either been duplicated or prematurely
   exported; report which.

   Additionally confirm no second
   `private theorem zpoly_dvd_trans` anywhere in the BZMathlib
   tree (a `git grep -n "private theorem zpoly_dvd_trans"`
   should return exactly one match, at the post-hoist
   `Basic.lean:2076` neighbourhood).

If all three invariants pass, the comment concludes with a
single line "All three invariants pass; ready to close."
Otherwise it lists each violation with file:line citations.

This is a **read-only audit**. No code changes. No new helper
extractions. Any follow-up extraction work spotted during the
audit (e.g., additional inline divisor-transitivity sites that
neither #5064 nor #5066 addressed) is drafted as a fresh issue
body within the audit comment for the next planner cycle, not
committed.

## Context

This continues the audit pattern of #5031 (post-#4991 cascade),
#5039 (post-#4991 Monic-route cluster extension), #5041
(`normalizeForFactor` primitivity micro-cluster), #5048
(post-#5045 baseline), #5053 (post-#5049 `_size_pos` of_monic),
and #5057 (post-#5052 `_size_pos` of_pos_lc).

The #5048 audit (post-#5045 baseline) flagged 26 + 3 missed
transitivity sites in its single PASS comment plus the post-#5058
rebase addendum. PR #5066 (closes #5065, merged as `dc2ba756`)
closes the 3 calc-form cluster via a `zpoly_dvd_trans` hoist plus
rewires. Issue #5064 (claimed at audit-write time) closes the 26
rcases-form cluster. After both land, this audit verifies that
the cleanup is complete and that the hoist did not introduce
regressions in framing, visibility, or cross-file consistency.

The cluster is "closed" once this audit passes: no further
`zpoly_dvd_trans` extraction or rewire work is anticipated
beyond what #5036 + #5045 + #5064 + #5066 have collectively
landed.

## Verification

- A single audit comment is posted on this issue.
- The comment contains verbatim grep output for at least the
  six commands listed under Invariant 1, plus the cross-file
  count under Invariant 3.
- The audit comment classifies each invariant as PASS or FAIL
  with file:line citations for any FAILs.
- No commits are made on the issue branch beyond the
  end-of-turn `progress/<UTC-timestamp>.md` entry.
- `python3 scripts/check_dag.py` exits 0.
- `git diff --check` clean.

This issue is blocked on the PR that closes #5064; do not
claim it until that PR is merged. (PR #5066 has already merged
as `dc2ba756`, so it does not gate this audit.)

depends-on: #5064

**Comment by kim-em** [comment]
Session: `7247ee55-9c3d-454f-88df-d63be48e3ac6` Branch: `agent/7247ee55`

**Comment by kim-em** [comment]
Claimed by session `eeafaae8-f20c-4c32-914c-048e8d61bf1f` on branch `agent/eeafaae8`

**Comment by kim-em** [comment]
## Audit comment for #5069 (post-#5064/#5066 closure of `zpoly_dvd_trans` cluster)

Read-only audit against the three invariants in the issue body.
Working tree at `4126dbcd` (origin/main).

### Invariant 1 — call-site coverage

```
$ grep -nE "obtain .*hu.*:= .*_dvd_" HexBerlekampZassenhausMathlib/*.lean
(no matches)

$ grep -nE "refine .*⟨.*\* .*, \?_⟩" HexBerlekampZassenhausMathlib/*.lean
HexBerlekampZassenhausMathlib/Basic.lean:1347:    refine ⟨q₁ * q₂, ?_⟩
HexBerlekampZassenhausMathlib/Basic.lean:1383:  refine ⟨q₁ * q₂, ?_⟩
HexBerlekampZassenhausMathlib/Basic.lean:2073:  refine ⟨q * v, ?_⟩
HexBerlekampZassenhausMathlib/Basic.lean:5701:              refine ⟨ka * kb, ?_⟩
HexBerlekampZassenhausMathlib/Basic.lean:5726:              refine ⟨k * q, ?_⟩
HexBerlekampZassenhausMathlib/Basic.lean:5803:              refine ⟨k * q, ?_⟩
HexBerlekampZassenhausMathlib/IntReductionMod.lean:2552:          refine ⟨y * k, ?_⟩

$ grep -nE "Hex\.DensePoly\.mul_assoc_poly \(S := Int\)" HexBerlekampZassenhausMathlib/*.lean
HexBerlekampZassenhausMathlib/Basic.lean:2075:  exact Hex.DensePoly.mul_assoc_poly (S := Int) _ _ _
HexBerlekampZassenhausMathlib/IntReductionMod.lean:2553:          rw [hk, ← Hex.DensePoly.mul_assoc_poly (S := Int),
HexBerlekampZassenhausMathlib/IntReductionMod.lean:2555:              Hex.DensePoly.mul_assoc_poly (S := Int)]

$ grep -nE "rw \[.*\]; rw \[.*\]; exact .*mul_assoc_poly" HexBerlekampZassenhausMathlib/*.lean
(no matches)

$ git grep -n "zpoly_dvd_trans" HexBerlekampZassenhausMathlib/Basic.lean | wc -l
39

$ git grep -nE "_ \∣ _ := .*\.trans " HexBerlekampZassenhausMathlib/Basic.lean
(no matches)
```

`zpoly_dvd_trans` occurrences in `Basic.lean` (39 total = 1 def +
38 uses):

| Line  | Role |
|-------|------|
| 2069  | def (`private theorem zpoly_dvd_trans`) |
| 2104, 2114, 2277 | calc-form callers rewired by #5066 (3) |
| 7945, 8018, 8229, 8308, 9421, 9589, 9703, 9771, 9871 | rewired (9) |
| 9948, 10056, 10561, 10658, 10953, 11060, 11081, 11145, 11238 | rewired (9) |
| 11503, 11525, 11586, 11636, 11658, 11833, 11855, 12193, 12239 | rewired (9) |
| 12622, 12642, 13387, 13397, 13435, 13686, 13695, 13733 | rewired (8) |

Total rewired = 3 + 9 + 9 + 9 + 8 = 38, matching the projected
`3 (#5036) + 6 (#5045) + 3 (#5066) + 26 (#5064) = 38` count
from the issue body.

Classification of the seven `refine ⟨_ * _, ?_⟩` matches:

- `Basic.lean:2073` — **helper-internal** (body of
  `private theorem zpoly_dvd_trans` itself).
- `Basic.lean:1347, 1383` — **non-transitivity (out-of-scope
  layer)**. Enclosing theorem
  `monicModPImage_dvd_monicModularImage_of_dvd_of_choosePrimeData?_some`
  (line 1287). The dividends are `Hex.FpPoly p` values produced
  by `monicModPImage` / `Hex.ZPoly.modP`, not `Hex.ZPoly`. The
  `FpPoly` layer carries its own bespoke `Dvd` instance
  (`instDvdOfAddOfMul`) — see the inline workaround comment at
  `Basic.lean:4983-4989` ("Construct the dvd witness manually
  because the `dvd` instance for `FpPoly p` is `instDvdOfAddOfMul`,
  not the default `semigroupDvd`, and `dvd_trans` doesn't see
  through that"). These sites are outside the ZPoly-helper
  scope this issue audits.
- `Basic.lean:5701` — **non-transitivity (product, not trans)**.
  Enclosing theorem
  `quadraticMultifactorCoprimeSplits_of_factorProduct_no_squared`
  (line 5626). Shape is `a ∣ b ∧ c ∣ d → a * c ∣ b * d`
  (product of divisibilities, computing `rawGcd * rawGcd ∣
  g * factorProduct ...`), not transitivity.
- `Basic.lean:5726, 5803` — **non-transitivity (out-of-scope
  layer)**. Same enclosing theorem as 5701. Dividends are
  `Hex.FpPoly` values (`rawGcd * rawGcd ∣ X` and
  `Berlekamp.factorProduct (h::tail) ∣ X` with `X : Hex.FpPoly`),
  so again outside the ZPoly-helper scope.
- `IntReductionMod.lean:2552` — **non-transitivity (`dvd_mul_left`
  shape)**. Inline helper `dvd_foldl_one_of_mem` (line 2535)
  proves `x ∣ xs.foldl (· * ·) 1`. The recursive case is `x ∣ b
  → x ∣ y * b`, not `a ∣ b ∧ b ∣ c → a ∣ c`. The two
  `mul_assoc_poly (S := Int)` lines at 2553/2555 are part of
  this `dvd_mul_left`-shape reassociation, not a transitivity
  chain.

Classification of the three `mul_assoc_poly (S := Int)` matches:

- `Basic.lean:2075` — **helper-internal** (body of
  `zpoly_dvd_trans`).
- `IntReductionMod.lean:2553, 2555` — **non-transitivity** (the
  `dvd_mul_left` site at `IntReductionMod.lean:2552` above).

Post-#5064/#5066 expected vs observed:

- `zpoly_dvd_trans` in `Basic.lean`: expected 39 (1 def + 38
  uses), observed **39** ✓
- `zpoly_dvd_trans` in `IntReductionMod.lean`: expected 0,
  observed **0** ✓
- `zpoly_dvd_trans` in `Recovery.lean`: expected 0, observed
  **0** ✓
- Remaining inline `Hex.ZPoly`-level divisor-transitivity sites
  (either shape): expected 0, observed **0** ✓

**Invariant 1: PASS.**

### Invariant 2 — framing, docstring, hoist correctness

Definition site (line 2065-2075 in current tree):

```lean
/-- Transitivity of `Hex.ZPoly`-level divisibility. Discharges the
`core = g * (q * v)` step explicitly via `Hex.DensePoly.mul_assoc_poly`
because `Hex.ZPoly` does not synthesise a Mathlib `Semigroup` instance
at this layer. -/
private theorem zpoly_dvd_trans
    {a b c : Hex.ZPoly} (hab : a ∣ b) (hbc : b ∣ c) : a ∣ c := by
  obtain ⟨q, hq⟩ := hab
  obtain ⟨v, hv⟩ := hbc
  refine ⟨q * v, ?_⟩
  rw [hv, hq]
  exact Hex.DensePoly.mul_assoc_poly (S := Int) _ _ _
```

- Docstring: contract-first sentence ("Transitivity of
  `Hex.ZPoly`-level divisibility.") + executable-vs-Mathlib
  semantic note (why the `core = g * (q * v)` step needs
  `mul_assoc_poly` explicit-S form: no Mathlib `Semigroup`
  instance on `Hex.ZPoly` at this layer). This is the docstring
  introduced by #5066 (commit `dc2ba756`) and not modified by
  #5064 / #5070. The issue body paraphrases the semantic note
  as "bespoke `Dvd` instance"; the actual wording in-tree is
  "Mathlib `Semigroup` instance" (same root cause: without the
  Mathlib semigroup, Mathlib's `dvd_trans` can't see through
  the bespoke `Mul`-derived `Dvd`). Wording is post-#5048-stable;
  no regression vs the form #5066 landed.
- No `(#NNNN)` PR refs, no session metadata, no
  "hoisted from `Basic.lean:6759`" / "extracted from …"
  provenance hints. ✓
- `private theorem` (not `theorem`). ✓
- Line number: issue body projected post-hoist neighbourhood
  `Basic.lean:2076`, observed `Basic.lean:2069`. The 7-line
  shift is the line-collapse from #5064 above the helper
  (issue body explicitly says "modulo line-shift after #5064
  lands"). Position is correct.
- Immediately-preceding declaration:
  `existsUnique_liftedFactorSubset_of_henselSubsetCorrespondenceRest`
  (line 2051-2063). Its body does not mention `zpoly_dvd_trans`
  (uses `h.exists_subset` / `h.unique_subset` directly). ✓
  Hoist is not gratuitous.
- Immediately-following declaration:
  `henselSubsetCorrespondenceRest_transport_of_disjoint` (line
  2088-2121), which is exactly the first calc-form caller's
  enclosing theorem (its `exists_subset` / `unique_subset`
  fields contain the two callers at lines 2104 and 2114; the
  third calc-form caller at line 2277 sits two declarations
  further down inside the structure that immediately follows).
  ✓ Minimal hoist position.

**Invariant 2: PASS.**

### Invariant 3 — cross-file consistency

```
$ git grep -c "zpoly_dvd_trans" \
    HexBerlekampZassenhausMathlib/Basic.lean \
    HexBerlekampZassenhausMathlib/IntReductionMod.lean \
    HexBerlekampZassenhausMathlib/Recovery.lean
HexBerlekampZassenhausMathlib/Basic.lean:39

$ git grep -c "zpoly_dvd_trans" \
    HexBerlekampZassenhausMathlib/IntReductionMod.lean \
    HexBerlekampZassenhausMathlib/Recovery.lean
(empty output => 0 matches in both)

$ git grep -n "private theorem zpoly_dvd_trans" HexBerlekampZassenhausMathlib/
HexBerlekampZassenhausMathlib/Basic.lean:2069:private theorem zpoly_dvd_trans
```

- 39 in `Basic.lean` (1 def + 38 uses) — matches expected. ✓
- 0 in `IntReductionMod.lean`. ✓
- 0 in `Recovery.lean`. ✓
- Exactly one `private theorem zpoly_dvd_trans` declaration,
  at `Basic.lean:2069`. No peer / duplicate / shadow. ✓

**Invariant 3: PASS.**

### Verdict

All three invariants pass; ready to close.

### Out-of-scope observation (drafted for next planner cycle)

The classification under Invariant 1 surfaces an analogous
`Hex.FpPoly`-level divisor-transitivity cluster that
`zpoly_dvd_trans` does not cover (different `Dvd` instance:
`instDvdOfAddOfMul` rather than the ZPoly `Mul`-derived one,
per the inline comment at `Basic.lean:4983-4989`). Candidate
sites observed:

- `Basic.lean:4985-4989` (`hg₁g₂_dvd_modP` inside the long
  square-free contradiction lemma) — a manual `dvd_trans` proof
  built from `rcases`/`rcases`/`⟨r * s, …⟩` plus
  `Hex.FpPoly.mul_assoc`.
- `Basic.lean:5726` — `rawGcd * rawGcd ∣ X` from
  `rawGcd * rawGcd ∣ factorProduct (g :: h :: tail)` and
  `factorProduct (g :: h :: tail) ∣ X` (via the `hcons_prod`
  rewrite). Pure `a ∣ b ∧ b ∣ c → a ∣ c` shape after the
  rewrite, with the witness combine using `Hex.DensePoly.mul_assoc_poly`
  (no `(S := Int)` — FpPoly layer).
- `Basic.lean:5803` — `factorProduct (h :: tail) ∣ X` from
  `factorProduct (h :: tail) ∣ factorProduct (g :: h :: tail)`
  and `factorProduct (g :: h :: tail) ∣ X` (the `h_dvd`
  hypothesis). Same `a ∣ b ∧ b ∣ c → a ∣ c` shape.

The two sites at `Basic.lean:1347` and `Basic.lean:1383` are
both inside `monicModPImage_dvd_monicModularImage_of_dvd_of_choosePrimeData?_some`
but use *calc*-form chains over three rewrites each, not a
single `mul_assoc`-based step; they would need either three-step
or chained-`fpPoly_dvd_trans` invocations. Worth re-confirming
the shape before drafting.

Draft issue body (FpPoly analogue cluster, for the next planner
cycle to lift or rework if desired):

> **Title:** BZMathlib: extract `fpPoly_dvd_trans` helper and
> rewire ≥3 inline `Hex.FpPoly`-level divisor-transitivity
> sites in `Basic.lean`
>
> **Current state.** `HexBerlekampZassenhausMathlib/Basic.lean`
> contains a `private theorem zpoly_dvd_trans` at
> `Basic.lean:2069` that routes 38 `Hex.ZPoly`-level
> divisor-transitivity sites through a single helper. The
> analogous `Hex.FpPoly` layer (different bespoke `Dvd`
> instance, `instDvdOfAddOfMul`, per the inline comment at
> `Basic.lean:4983-4989`) still has manual `rcases`/`rcases`/
> `⟨_ * _, _⟩` boilerplate at three confirmed sites:
> `Basic.lean:4985-4989` (inside the long square-free
> contradiction lemma) and `Basic.lean:5726` / `Basic.lean:5803`
> (both inside
> `quadraticMultifactorCoprimeSplits_of_factorProduct_no_squared`,
> line 5626). Plus two candidate calc-form sites at
> `Basic.lean:1347, 1383` inside
> `monicModPImage_dvd_monicModularImage_of_dvd_of_choosePrimeData?_some`
> (line 1287) that would need separate shape analysis.
>
> **Deliverables.** Extract `private theorem fpPoly_dvd_trans
> {p : Nat} [Hex.ZMod64.Bounds p] {a b c : Hex.FpPoly p}
> (hab : a ∣ b) (hbc : b ∣ c) : a ∣ c` near the existing inline
> workaround at `Basic.lean:4983-4989` (or at a hoist position
> that exposes it to all three call sites), then rewire the
> three confirmed sites. Audit comment classifies the two
> calc-form candidates and either rewires them or documents
> why they cannot be.
>
> **Verification.** `lake build` passes. `python3
> scripts/check_dag.py` exits 0. `git grep -c "fpPoly_dvd_trans"
> HexBerlekampZassenhausMathlib/Basic.lean` returns
> `1 def + ≥3 uses = ≥4 occurrences`. The inline comment about
> `instDvdOfAddOfMul` at `Basic.lean:4983-4989` is preserved
> (either on the helper or referenced from it).
